US04771046
(3) (5R,6S)-2-[2-(4-Hydroxyiminopiperidin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid
0.21 ml of diisopropylethylamine and 0.22 ml of diphenylphosphoryl chloride were added dropwise to an ice-cooled solution of 363 mg of p-nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate in 5 ml of anhydrous acetonitrile, and the mixture was stirred for one hour with ice-cooling. A solution of 0.18 ml of diisopropylethylamine and 324 mg of 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride in 3 ml of dimethylsulfoxide was then added dropwise to the mixture, which was stirred for a further 20 minutes with ice-cooling. The reaction mixture was then poured into 100 ml of anhydrous ether, and the solvent was decanted off from the gummy material which formed. This material was dissolved in a mixture of 20 ml of tetrahydrofuran, 7 ml of water and 23 ml of 0.1M phosphate buffer (pH 7.0), and the solution was subjected to catalytic hydrogenation at room temperature for 4 hours in the presence of 0.3 g of 10% palladium-carbon. The hydrogenated solution was filtered over "Celite" (Trade Mark) filter aid, the filtrate was extracted with 200 ml of ether, and the aqueous layer was concentrated under reduced pressure. The concentrate was subjected to chromatography using a 300 ml column of "Dowex 50W" (Trade Mark) cation exchange resin (Na+ type), and 27 mg of the title compound were obtained from the fraction eluted with water.

reactant | diisopropylethylamine | 0.21 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl chloride | 0.22 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | p-nitrobenzyl (5R,6S)-6-[(1R)-1-hydroxyethyl]-2-oxo-1-carbapenam-3-carboxylate | 363 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C(C2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C16H16N2O7
reactant | diisopropylethylamine | 0.18 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(4-hydroxyiminopiperidin-1-yl)-2-iminoethylmercaptan hydrochloride | 324 mg | Cl.ON=C1CCN(CC1)C(CS)=N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | dimethylsulfoxide | 3 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 7 ml | O | H2O
solvent | phosphate | 0.1M, 23 ml, pH 7.0 | P(=O)([O-])([O-])[O-]
catalyst | palladium-carbon | 0.3 g | [C].[Pd]
solvent | ether | 100 ml | CCOCC | C4H10O
product | (5R,6S)-2-[2-(4-Hydroxyiminopiperidin-1-yl)-2-iminoethylthio]-6-[(1R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylic acid | 27 mg | ON=C1CCN(CC1)C(CSC=1C[C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)=N | C16H22N4O5S
